US04001426
3-Benzoyl-2-[4'-(2-hydroxy-3-isopropylaminopropoxy)phenyl]benzofuran
3-Benzoyl-2-[4'-(2,3-epoxypropoxy)phenyl]benzofuran (1.9 g., 5.2 mmol.) was dissolved in 30 ml. of freshly distilled isopropylamine and the mixture was heated in a stainless steel pressure bomb at 100° for 4.5 hours. The contents of the bomb were concentrated under reduced pressure to give the title compound. The title compound was dissolved in ether and an ethereal solution of hydrochloric acid was added to precipitate the corresponding hydrochloride salt, m.p. 53°-59°.

reactant | 3-Benzoyl-2-[4'-(2,3-epoxypropoxy)phenyl]benzofuran | 5.2 mmol, 1.9 g | C(C1=CC=CC=C1)(=O)C1=C(OC2=C1C=CC=C2)C2=CC=C(C=C2)OCC2CO2 | C24H18O4
reactant | isopropylamine | C(C)(C)N | C3H9N
product | 3-Benzoyl-2-[4'-(2-hydroxy-3-isopropylaminopropoxy)phenyl]benzofuran | C(C1=CC=CC=C1)(=O)C1=C(OC2=C1C=CC=C2)C2=CC=C(C=C2)OCC(CNC(C)C)O | C27H27NO4
